data/polar.json
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[c:3]1([P:30]([c:4]2[cH:10][cH:16][c:32]([N:7]([CH3:24])[CH3:25])[cH:17][cH:11]2)[c:5]2[cH:12][cH:18][c:33]([N:8]([CH3:26])[CH3:27])[cH:19][cH:13]2)[cH:9][cH:15][c:31]([N:6]([CH3:22])[CH3:23])[cH:20][cH:14]1.[cH:1]1[cH:2][cH:29][cH:35][cH+:21][cH:34][cH:28]1>>[CH:1]1=[CH:2][CH:29]=[CH:35][CH:21]([P+:30]([c:3]2[cH:9][cH:15][c:31]([N:6]([CH3:22])[CH3:23])[cH:20][cH:14]2)([c:4]2[cH:10][cH:16][c:32]([N:7]([CH3:24])[CH3:25])[cH:17][cH:11]2)[c:5]2[cH:12][cH:18][c:33]([N:8]([CH3:26])[CH3:27])[cH:19][cH:13]2)[CH:34]=[CH:28]1", "epd": [["LP-/Sigma+", [30], [30, 21]]]}
{"reaction_name": "Thionium-promoted rearrangement", "rsmi": "[CH:3](=[CH2:4])[H:6].[S+:1](=[CH2:2])[CH3:5]>>[S:1]([CH2:2][CH+:3][CH2:4][H:6])[CH3:5]", "epd": [["Sigma-/Sigma+", [3, 6], [4, 6]], ["Pi-/Sigma+", [3, 4], [2, 3]], ["Pi-/LP+", [1, 2], [1]]]}
{"reaction_name": "Glycosyl halide substitution", "rsmi": "[O-:3][CH3:8].[O:1]1[CH:4]([Br:9])[CH2:2][CH2:7][CH2:5][CH2:6]1>>[Br-:9].[O:1]1[CH:4]([O:3][CH3:8])[CH2:2][CH2:7][CH2:5][CH2:6]1", "epd": [["LP-/Sigma+", [3], [3, 4]], ["Sigma-/LP+", [4, 9], [9]]]}
{"reaction_name": "σ-Bond carbon transfer to a preformed localized carbocation", "rsmi": "[c:1]1([B-:20]2([c:21]3[cH:17][c:6]([C:3]([F:31])([F:32])[F:33])[cH:9][c:7]([C:4]([F:34])([F:35])[F:36])[cH:18]3)[O:23][CH2:41][C:19]([CH3:11])([CH3:12])[CH2:42][O:24]2)[s:8][c:5]([CH3:22])[cH:2][cH:10]1.[cH:13]1[c:25]([CH+:45][c:26]2[cH:14][c:29]([F:39])[cH:44][c:30]([F:40])[cH:15]2)[cH:16][c:27]([F:37])[cH:43][c:28]1[F:38]>>[C:3]([c:6]1[cH:9][c:7]([C:4]([F:34])([F:35])[F:36])[cH:18][c:21]([B-:20]2=[O+:23][CH2:41][C:19]([CH3:11])([CH3:12])[CH2:42][O:24]2)[cH:17]1)([F:31])([F:32])[F:33].[c:1]1([CH:45]([c:25]2[cH:13][c:28]([F:38])[cH:43][c:27]([F:37])[cH:16]2)[c:26]2[cH:14][c:29]([F:39])[cH:44][c:30]([F:40])[cH:15]2)[s:8][c:5]([CH3:22])[cH:2][cH:10]1", "epd": [["LP-/Pi+", [23], [20, 23]], ["Sigma-/Sigma+", [1, 20], [1, 45]]]}
{"reaction_name": "Phenonium-assisted substitution", "rsmi": "[CH2:1]([CH2:8][Br:4])[c:10]1[cH:6][cH:2][cH:5][cH:3][cH:7]1.[Cl-:9]>>[Br-:4].[CH2:1]([CH2:8][Cl:9])[c:10]1[cH:6][cH:2][cH:5][cH:3][cH:7]1", "epd": [["LP-/Sigma+", [9], [8, 9]], ["Sigma-/LP+", [4, 8], [4]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH3:3][C:10](=[C:7]=[N-:15])[c:16]1[cH:17][cH:20][cH:23][cH:21][cH:18]1.[c:1]12[c:5]([cH:13][cH:11][cH:24][cH:8]1)-[c:6]1[c:2]([cH:9][cH:25][cH:12][cH:14]1)[N+:22]2=[CH:4][CH3:19]>>[c:1]12[c:5]([c:6]3[c:2]([cH:9][cH:25][cH:12][cH:14]3)[n:22]1[CH:4]([C:10]([CH3:3])([C:7]#[N:15])[c:16]1[cH:17][cH:20][cH:23][cH:21][cH:18]1)[CH3:19])[cH:13][cH:11][cH:24][cH:8]2", "epd": [["LP-/Pi+", [15], [7, 15]], ["Pi-/Sigma+", [10, 7], [10, 4]], ["Pi-/LP+", [4, 22], [22]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:4]1([Cl:18])=[C:5]([Cl:19])[C:7](=[O:10])[C:14]([C:22]#[N:25])=[C:15]([C:23]#[N:26])[C:6]1=[O:9].[O-:1][C:20](=[CH:13][c:2]1[cH:11][cH:16][n:3][cH:17][cH:12]1)[O:21][CH2:24][CH3:8]>>[O:1]=[C:20]([CH:13]([c:2]1[cH:11][cH:16][n:3][cH:17][cH:12]1)[C:14]1([C:22]#[N:25])[C:7](=[O:10])[C:5]([Cl:19])=[C:4]([Cl:18])[C:6]([O-:9])=[C:15]1[C:23]#[N:26])[O:21][CH2:24][CH3:8]", "epd": [["LP-/Pi+", [1], [20, 1]], ["Pi-/Sigma+", [13, 20], [13, 14]], ["Pi-/Pi+", [14, 15], [15, 6]], ["Pi-/LP+", [6, 9], [9]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:7]1[N+:15](=[CH:3][CH:33]=[CH:8][c:23]2[cH:4][cH:17][cH:2][cH:18][cH:5]2)[CH:14]([CH2:34][c:30]2[cH:37][cH:10][cH:19][cH:11][cH:38]2)[C:21](=[O:6])[N:31]1[CH3:20])([CH3:25])([CH3:26])[CH3:27].[O-:9][c:32]1[cH:22][c:16](=[O:24])[n:35]([CH3:13])[c:29](=[O:12])[n:36]1[CH3:28]>>[C:1]([CH:7]1[N:15]([CH:3]=[CH:33][CH:8]([CH:22]2[C:16](=[O:24])[N:35]([CH3:13])[C:29](=[O:12])[N:36]([CH3:28])[C:32]2=[O:9])[c:23]2[cH:4][cH:17][cH:2][cH:18][cH:5]2)[CH:14]([CH2:34][c:30]2[cH:37][cH:10][cH:19][cH:11][cH:38]2)[C:21](=[O:6])[N:31]1[CH3:20])([CH3:25])([CH3:26])[CH3:27]", "epd": [["LP-/Pi+", [9], [32, 9]], ["Pi-/Sigma+", [22, 32], [22, 8]], ["Pi-/Pi+", [8, 33], [33, 3]], ["Pi-/LP+", [3, 15], [15]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:2][C:8](=[C:3]=[N-:12])[c:13]1[cH:14][cH:18][cH:21][cH:19][cH:15]1.[N+:1]([c:9]1[cH:4][n:7][c:11]2[c:16]([n+:6]([O-:5])[o:10][n:23]2)[cH:17]1)(=[O:20])[O-:22]>>[N+:1](=[C:9]1[CH:4]=[N:7][c:11]2[c:16]([n+:6]([O-:5])[o:10][n:23]2)[CH:17]1[C:8]([CH3:2])([C:3]#[N:12])[c:13]1[cH:14][cH:18][cH:21][cH:19][cH:15]1)([O-:20])[O-:22]", "epd": [["LP-/Pi+", [12], [3, 12]], ["Pi-/Sigma+", [8, 3], [8, 17]], ["Pi-/Pi+", [17, 9], [9, 1]], ["Pi-/LP+", [1, 20], [20]]]}
